US04593102
4-[(4-Chlorophenyl)thio]piperidine hydrochloride
Following the procedure of Intermediate 9, 4-[(4-chlorophenyl)thio]-1-(phenylmethyl)piperidine is reacted with phenyl chloroformate and the product is hydrolyzed with 48% hydrobromic acid to give the free base of the title compound which is then converted to the hydrochloride.

reactant | 4-[(4-chlorophenyl)thio]-1-(phenylmethyl)piperidine | ClC1=CC=C(C=C1)SC1CCN(CC1)CC1=CC=CC=C1 | C18H20ClNS
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | hydrobromic acid | Br | BrH
product | 4-[(4-Chlorophenyl)thio]piperidine hydrochloride | Cl.ClC1=CC=C(C=C1)SC1CCNCC1 | InChI=1S/C11H14ClNS.ClH/c12-9-1-3-10(4-2-9)14-11-5-7-13-8-6-11;/h1-4,11,13H,5-8H2;1H
